US04925879
1-[1-(4-chlorophenyl)cyclobutyl]-1-dimethylamino-3-methylbutan-2-one (1 g prepared in a similar manner to that described in Example 47 and having a boiling point range 144°-148° C./2 mm Hg) was heated under reflux for 20 minutes with a mixture of 30% aqueous oxalic acid solution (9 ml) and methanol (90 ml). The reaction mixture was poured into water and the aqueous mixture was washed with ether, basified and extracted with ether. The solvent was removed from the dried ethereal extract and the residue was treated with a mixture of excess concentrated hydrochloric acid and propan-2-ol. Removal of the solvents gave a residue which was dried by azeotropic distillation with propan-2-ol. The residue was then triturated with acetone to give a solid which was recrystallised twice from propan-2-ol to give 1-[1-(4-chlorophenyl)cyclobutyl]-1-dimethylamino-3-methylbutan-2-one hydrochloride (m.p. 202°-204° C.).

reactant | 1-[1-(4-chlorophenyl)cyclobutyl]-1-dimethylamino-3-methylbutan-2-one | ClC1=CC=C(C=C1)C1(CCC1)C(C(C(C)C)=O)N(C)C | C17H24ClNO
reactant | oxalic acid | 9 ml | C(C(=O)O)(=O)O | C2H2O4
reactant | methanol | 90 ml | CO | CH4O
solvent | water | O | H2O
product | 1-[1-(4-chlorophenyl)cyclobutyl]-1-dimethylamino-3-methylbutan-2-one hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCC1)C(C(C(C)C)=O)N(C)C | InChI=1S/C17H24ClNO.ClH/c1-12(2)15(20)16(19(3)4)17(10-5-11-17)13-6-8-14(18)9-7-13;/h6-9,12,16H,5,10-11H2,1-4H3;1H
